US04472407
A mixture of 1.2 g of 6-fluoro-5-methoxy-1,2,3,4-tetrahydroquinaldine and 2.5 g of diethyl ethoxymethylenemalonate was heated at 140° C. for 3 hours, and was then cooled to 100° C. To the crude hot diethyl 2-[N-(6-fluoro-5-methoxy-1,2,3,4-tetrahydroquinaldinyl)]methylenemalonate was added 25 g of polyphosphoric acid, and the mixture was heated on a steam bath for one hour. The mixture containing ethyl 6,7-dihydro-9-fluoro-8-methoxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate was cooled to about 20° C., diluted with an equal volume of water and basified with 50% sodium hydroxide solution. This solution was heated at its reflux temperature for two hours and filtered hot through celite. The filtrate was cooled to about 20° C. and acidified with concentrated hydrochloric acid. The solid was separated by filtration to provide 1.2 g of off-white 6,7-dihydro-9-fluoro-8-methoxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid. Recrystallization from aqueous N,N-dimethylformamide provided pure product, m.p. 234°-236° C. Analysis: Calculated for C15H14FNO4 : %C, 61.8; %H, 4.8; %N, 4.8; Found: %C, 61.7; %H, 4.6; %N, 4.8.

reactant | 6-fluoro-5-methoxy-1,2,3,4-tetrahydroquinaldine | 1.2 g | FC=1C(=C2CCC(NC2=CC1)C)OC | C11H14FNO
reactant | diethyl ethoxymethylenemalonate | 2.5 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | ethyl 6,7-dihydro-9-fluoro-8-methoxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)OCC)C)OC | C17H18FNO4
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 6,7-dihydro-9-fluoro-8-methoxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 1.2 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)OC | C15H14FNO4
